US08710043B2
To a solution of 2-(tributylstannyl)pyrimidine (425 mg, 1.151 mmol) in THF (3 mL) at −78° C. was added n-butyllithium (0.720 mL, 1.151 mmol) (1.6 M in hexanes). The reaction was stirred at −78° C. for 1.5 h and then (S,E)-N-(3-fluoro-4-(trifluoromethyl)benzylidene)-2-methylpropane-2-sulfinamide (408 mg, 1.382 mmol) in THF (1 mL) was added. The cooling bath was then removed as the reaction was allowed to warm to rt and stirred for 1 h. LCMS showed 2 products with a ratio of 10:1. The reaction was quenched with saturated aqueous NH4Cl (5 mL) and H2O (5 mL). The reaction mixture was extracted with EtOAc (2×5 mL). The organic layers were combined, dried (MgSO4), and concentrated to give the product. Purification by ISCO (12 g SiO2, 20-80% EtOAc/hexanes) gave the major product, (S)—N—((S)-(3-fluoro-4-(trifluoromethyl)phenyl)-(pyrimidin-2-yl)methyl)-2-methylpropane-2-sulfinamide.

reactant | 2-(tributylstannyl)pyrimidine | 1.151 mmol, 425 mg | C(CCC)[Sn](C1=NC=CC=N1)(CCCC)CCCC
reactant | n-butyllithium | 1.151 mmol, 1.6 M, 0.720 mL | C(CCC)[Li]
reactant | (S,E)-N-(3-fluoro-4-(trifluoromethyl)benzylidene)-2-methylpropane-2-sulfinamide | 1.382 mmol, 408 mg | FC=1C=C(\C=N\[S@@](=O)C(C)(C)C)C=CC1C(F)(F)F | C12H13F4NOS
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (S)—N—((S)-(3-fluoro-4-(trifluoromethyl)phenyl)-(pyrimidin-2-yl)methyl)-2-methylpropane-2-sulfinamide | FC=1C=C(C=CC1C(F)(F)F)[C@H](N[S@@](=O)C(C)(C)C)C1=NC=CC=N1 | C16H17F4N3OS
